US06407096B1
Methyl (4-(2-hydroxyethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate
4-(2-(hydroxyethyl)-8-hydroxy-3,4-dihydro-2H-1,4-benzoxazine (4.66 g) was dissolved in anhydrous DMF (50 ml), and anhydrous potassium carbonate (8.50 g) and methyl bromoacetate (4.0 ml) were added to the resultant solution, and the mixture was stirred at room temperature for 6 hours. The solvent was distilled off, and the residue was poured into 5% citric acid, and then extracted with ethyl acetate. The resultant organic layer was washed with water and saturated brine, dried over magnesium sulfate, and then concentrated. The residue was recrystallized from ethyl acetate/n-hexane to obtain the object compound (3.83 g, yield 60%).

reactant | 2-(hydroxyethyl)-8-hydroxy-3,4-dihydro-2H-1,4-benzoxazine | 4.66 g | OCCC1OC2=C(NC1)C=CC=C2O | C10H13NO3
reactant | potassium carbonate | 8.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 4.0 ml | BrCC(=O)OC | C3H5BrO2
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl (4-(2-hydroxyethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate | 3.83 g, yield 60% | OCCN1CCOC2=C1C=CC=C2OCC(=O)OC | C13H17NO5
